US05502065
3-(1-methylpyrrolidin-2(R)-ylmethyl)-5-(4-pyridyl)-1H-indole
5-Bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole (see Preparation 36) and diethyl (4-pyridyl)borane (see Preparation 50) were reacted together in the presence of sodium ethoxide, n-butylammonium bromide and tetrakis(triphenylphosphine)palladium(O) using a procedure similar to that in Example 56. This gave the title compound. Found: C,75.77; H,7.16; N,13.78%; C19H21N3.1/8CH2Cl2 requires: C,76.06; H,7.09; N,13.91%.

reactant | 5-Bromo-3-(1-methylpyrrolidin-2(R)-ylmethyl)-1H-indole | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | diethyl (4-pyridyl)borane | C(C)B(C1=CC=NC=C1)CC | C9H14BN
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | n-butylammonium bromide | [Br-].C(CCC)[NH3+]
catalyst | tetrakis(triphenylphosphine)palladium(O) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 3-(1-methylpyrrolidin-2(R)-ylmethyl)-5-(4-pyridyl)-1H-indole | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C1=CC=NC=C1 | C19H21N3
